US07161015B1
Preparation of 1-(2-Furyl)-7-hydroxy-1-heptanone (R=n-C6H12OH)—Magnesium turnings (8.20 g, 0.342 mol, 4.5 eq/halide) were covered with anhydrous THF (40 mL) and a solution of 1-(tetrahydropyran-2-yloxy)-6-hexyl bromide (20.1 g, 76.0 mmol in anhydrous 100 mL THF) was added dropwise once the reaction was initiated with 1,2-dibromoethane. The remaining halide solution was added dropwise and the mixture was allowed to stir at rt overnight. The resulting mixture was then added to a cooled solution of the Weinreb amide (10.3 g, 66.1 mmol in 100 mL anhydrous THF, 0° C.) via cannula. The resulting slurry was stirred (3 h) and then quenched with equal amounts of 1 N HCl and H2O. After warming to rt the mixture was separated and the aqueous layer was extracted with Et2O (2×). The combined organics were washed with sat'd. NaHCO3, brine, dried (Na2SO4), filtered, and evaporated to yield crude residue, which was then dissolved in MeOH (200 mL) with a small amount of TsOH and allowed to stir overnight. The reaction mixture was stirred with NaHCO3, evaporated, and the residue taken up in hexane. The hexane portion was washed with H2O (2×), brine, dried (Na2SO4), and concentrated to yield crude furyl ketone, which was distilled under vacuum (b.p. 164–167° C., 0.2 mm Hg) to give pure furyl ketone (6.95 g, 35.4 mmol, Yld. 53.6%). 1H NMR: δ 7.57 (dd, 1H, 3JH,H=1.7 Hz, 4JH,H=0.74 Hz, H-2), 7.17 (dd, 1H, 3JH,H=3.6 Hz, 4JH,H=0.76 Hz, H-4), 6.52 (dd, 1H, 3JH,H=3.6 Hz, 3JH,H=1.7 Hz, H-3), 3.63 (t, 2H, 3JH,H=6.6 Hz, H-12), 2.81 (t, 2H, 3JH,H=7.6 Hz, H-7), 2.13 (bs, 1H, OH), 1.72 (quintet, 2H, 3JH,H=7.4 Hz, H-8), 1.57 (quintet, 2H, 3JH,H=6.7 Hz, H-11), 1.39 (m, 4H, H-9 and 10). 13C NMR: δ 189.8, 152.7, 146.3, 117.0, 112.2, 62.8, 38.3, 32.5, 29.0, 25.5, 24.2.

reactant | THF | 40 mL | C1CCOC1 | C4H8O
reactant | 1-(tetrahydropyran-2-yloxy)-6-hexyl bromide | 76.0 mmol, 100 mL, 20.1 g | O1C(CCCC1)OCCCCCCBr | C11H21BrO2
reactant | 1,2-dibromoethane | BrCCBr | C2H4Br2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | MeOH | 200 mL | CO | CH4O
solvent | TsOH | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
product | furyl ketone | 35.4 mmol, 6.95 g, 53.6% | O1C(=CC=C1)C(=O)C=1OC=CC1 | C9H6O3
